**************************************************
* Manufacturer:           Würth Elektronik
* Kinds:                  SMT Infrared Sideview LED Waterclear
* Matchcode:              WL-SISW
* Library Type:           Pspice
* Version:                rev26a
* Created/modified by:    Ella      
* Date and Time:          2026-09-24
* Team:                   eiSos EDA Service  
* Contact:                libraries@we-online.com
**************************************************
* Copyright(C) 2026 Würth Elektronik eiSos GmbH & Co. KG
* All Rights Reserved.
**************************************************
* Disclaimer: While Würth Elektronik eiSos has made every reasonable effort to ensure the accuracy
* of the simulation models provided, Würth Elektronik eiSos does not guarantee the exemption of error on
* the simulation models, nor does Würth Elektronik eiSos guarantee that the simulation model is current.
* Würth Elektronik eiSos reserves the right to make any adjustments at any time without notice.
* Würth Elektronik eiSos expressly disclaims all implied warranties regarding this simulation model.
**************************************************
.subckt SISW_0402_15404085BA470 1 2 
D1 1 2 led
.MODEL led D
+ IS=5.4129E-12
+ N=2.4754
+ RS=1.2213
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=10.00E-6
+ TT=5.0000E-9
.ends
****************
.subckt SISW_0402_15404094BA470 1 2 
D1 1 2 led
.MODEL led D
+ IS=282.34E-18
+ N=1.4095
+ RS=1.1294
+ IKF=41.519E-3
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=10.00E-6
+ TT=5.0000E-9
.ends
****************
.subckt SISW_1002_15410285AA170 1 2 
D1 1 2 led
.MODEL led D
+ IS=84.387E-18
+ N=1.7270
+ RS=1.4396
+ IKF=6.5501
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=10.00E-6
.ends
****************
.subckt SISW_1002_15410294AA570 1 2 
D1 1 2 led
.MODEL led D
+ IS=10.000E-21
+ N=1.0644
+ RS=1.2174
+ IKF=8.9574E-3
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=10.00E-6
.ends
****************
.subckt SISW_1104_15411485AA370 1 2 
D1 1 2 led
.MODEL led D
+ IS=278.34E-15
+ N=2.1529
+ RS=1.3865
+ IKF=18.715E-3
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=10.00E-6
.ends
****************
.subckt SISW_1104_15411494AA570 1 2 
D1 1 2 led
.MODEL led D
+ IS=505.44E-18
+ N=1.4511
+ RS=1.6264
+ IKF=27.533E-3
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=10.00E-6
.ends
****************
.subckt SISW_1106_15411085A4570 1 2 
D1 1 2 led
.MODEL led D
+ IS=553.57E-18
+ N=1.7089
+ RS=1.2139
+ IKF=212.55
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=10.00E-6
.ends
****************
.subckt SISW_1106_15411094A6070 1 2 
D1 1 2 led
.MODEL led D
+ IS=541.60E-18
+ N=1.5662
+ RS=1.2886
+ IKF=23.792E-3
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=10.00E-6
.ends
****************
.subckt SISW_1206_15412085A2070 1 2 
D1 1 2 led
.MODEL led D
+ IS=10.000E-21
+ N=1.2396
+ RS=3.0449
+ IKF=15.217
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=10.00E-6
.ends
****************
.subckt SISW_1206_15412094A2070 1 2 
D1 1 2 led
.MODEL led D
+ IS=1.5912E-15
+ N=1.5362
+ RS=2.0600
+ IKF=13.043
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=10.00E-6
.ends
****************
.subckt SISW_1206_15412085A2070R 1 2 
D1 1 2 led
.MODEL led D
+ IS=34.967E-12
+ N=2.7343
+ RS=1.6240
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=10.00E-6
+ TT=5.0000E-9
.ends
****************
.subckt SISW_1206_15412094A2070R 1 2 
D1 1 2 led
.MODEL led D
+ IS=10.514E-21
+ N=.88602
+ RS=1.7815
+ IKF=991.26E-9
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=10.00E-6
+ TT=5.0000E-9
.ends
****************